US04606851
Preparation of Ammonium p-menthane-2-sulfonate (III)
Sodium-p-menthane-2-sulfonate, 35 grams, prepared as in Example 9 was passed through an ion-exchange column. The eluate containing p-menthane-2-sulfonic acid was neutralized with dilute ammonium hydroxide. The solution was evaporated to dryness and the residue stored in vacuo over phosphorus pentoxide. The product was 91.7% pure by NMR analysis.

reactant | Sodium p-menthane-2-sulfonate | [Na].C1(C(CC(CC1)C(C)C)S(=O)(=O)[O-])C
reactant | p-menthane-2-sulfonic acid | C1(C(CC(CC1)C(C)C)S(=O)(=O)O)C | C10H20O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | Ammonium p-menthane-2-sulfonate | C1(C(CC(CC1)C(C)C)S(=O)(=O)[O-])C.[NH4+] | InChI=1S/C10H20O3S.H3N/c1-7(2)9-5-4-8(3)10(6-9)14(11,12)13;/h7-10H,4-6H2,1-3H3,(H,11,12,13);1H3
